US05283243
2-[3-(4-benzylpiperidin-1-yl)-propyl]-2H-1,4-benzoxazine-3(4H)-one
5.6 g (=0.02 m) of 2-(3-bromopropyl)-2H-1,4-benzoxazine-3(4H)-one prepared analogously to Example 1B starting from 2-aminophenol and 2,5-dibromopentanoyl bromide, 3.86 g (=0.022 m) of 4-benzylpiperidine, and 4.05 g of triethylamine were successively introduced into 70 ml of toluene. The reaction mixture was heated at reflux for 7 hours with stirring. To work up the reaction mixture it was cooled, and 100 ml of aqueous 20% strength hydrochloric acid solution were added. An oily paste was formed which was separated, washed with toluene, and then suspended in a mixture of aqueous sodium bicarbonate solution and dichloromethane. The organic phase was separated, dried over sodium sulfate, and then the solvent was distilled off. The remaining oily residue was fractionated by column chromatography. The title compound obtained in this way was crystallized from 15 ml of ethyl acetate. 6 g of 2-[3-(4-benzylpiperidin-1-yl)-propyl]-2H-1,4-benzoxazine-3(4H)-one were obtained as white crystals having a melting point of 108° C.

reactant | 2-(3-bromopropyl)-2H-1,4-benzoxazine-3(4H)-one | 5.6 g | BrCCCC1OC2=C(NC1=O)C=CC=C2 | C11H12BrNO2
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 2,5-dibromopentanoyl bromide | BrC(C(=O)Br)CCCBr | C5H7Br3O
reactant | 4-benzylpiperidine | 3.86 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 4.05 g | C(C)N(CC)CC | C6H15N
product | 2-[3-(4-benzylpiperidin-1-yl)-propyl]-2H-1,4-benzoxazine-3(4H)-one | C(C1=CC=CC=C1)C1CCN(CC1)CCCC1OC2=C(NC1=O)C=CC=C2 | C23H28N2O2
